US08809377B2
(E)-3-(6-Bromopyridin-2-yl)-2-cyano-N-(1-(4-(2-methoxyethoxy)phenyl)propyl)-acrylamide (17)
Potassium t-butoxide (0.014 g, 0.127 mmol) was added to a stirred solution of 6-bromo-2-pyridinecarboxaldehyde (0.094 g, 0.51 mmol) and 2-cyano-N-(1-(4-(2-methoxyethoxy)-phenyl)propyl)acetamide (0.07 g, 0.25 mmol) in dimethylsulfoxide (10 mL) under nitrogen at room temperature. After 26 hours the mixture was shaken with water and then extracted with ethyl acetate several times. The combined extracts were washed with water and then dried over sodium sulfate. The solvent was removed in vacuo leaving 0.10 g of a clear amber syrup, which was flash chromatographed on a column (5×10 cm) of silica gel with gradient elution utilizing dichloromethane/EtOAc (10:0 gradually changing to 12:1) to afford 0.040 g of the product as a clear pale yellow syrup; mass spec ES+m/z=444, 466 (m+1, m+23).

reactant | Potassium t-butoxide | 0.127 mmol, 0.014 g | CC(C)([O-])C.[K+]
reactant | 6-bromo-2-pyridinecarboxaldehyde | 0.51 mmol, 0.094 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | 2-cyano-N-(1-(4-(2-methoxyethoxy)-phenyl)propyl)acetamide | 0.25 mmol, 0.07 g | C(#N)CC(=O)NC(CC)C1=CC=C(C=C1)OCCOC | C15H20N2O3
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | (E)-3-(6-Bromopyridin-2-yl)-2-cyano-N-(1-(4-(2-methoxyethoxy)phenyl)propyl)-acrylamide | 0.10 g | BrC1=CC=CC(=N1)/C=C(/C(=O)NC(CC)C1=CC=C(C=C1)OCCOC)\C#N | C21H22BrN3O3
